### PR TITLE
[Merged by Bors] - feat: the reverse of two lists is disjoint iff the lists are disjoint

### PR DESCRIPTION
**Pull request by greg-const**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

Hello. This PR is marked `awaiting-review` as I am not certain whether lemmas of this nature should go in Mathlib or Std. I would want to check before adding more list lemmas—some of which depend on this one. I believe I have this lemma placed in a reasonable spot in Mathlib—nearby other list-reversing lemmas. The most reasonable spot in Std would be nearby 'disjoint' lemmas in Data/List/Lemmas.lean. 

I am following Eric's suggestion that it is ok to PR data structure lemmas to mathlib as they may always be moved later on, as mentioned in discussion here:
https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Should.20data.20structures.20theory.20sit.20in.20mathlib.3F

Please let me know if there are any issues. Thank you for your patience.

### CODE REVIEW

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]
It's good to start with a small PR, because annoying people may come along and write more comments than lines of code you've put up for review :)

I hope this is not demotivating, but I found some more general lemmas that would be even more useful and this could build on top of.

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -622,6 +622,21 @@ theorem map_reverseAux (f : α → β) (l₁ l₂ : List α) :
...
+
+theorem Perm.disjoint_left {l₁ l₂ l : List α} (p : List.Perm l₁ l₂) :
+    Disjoint l₁ l ↔ Disjoint l₂ l := by
+  constructor
+  · intro _ a hyp_l2 _
+    apply (Perm.mem_iff p).mpr at hyp_l2
+    aesop
+  · intro _ a hyp_l1 _
+    apply (Perm.mem_iff p).mp at hyp_l1
+    aesop
```
Comment (eric-wieser) [inline Mathlib/Data/List/Basic.lean:638]: A shorter proof is
```suggestion
    Disjoint l₁ l ↔ Disjoint l₂ l := by
  simp_rw [List.disjoint_left, p.mem_iff]
```

File: Mathlib/Data/List/Basic.lean [hunk 2]
```diff
@@ -622,6 +622,15 @@ theorem map_reverseAux (f : α → β) (l₁ l₂ : List α) :
...
 #align list.reverse_replicate List.reverse_replicate
 
+theorem disjoint_reverse_iff_disjoint (l₁ l₂: List α) :
+    Disjoint l₁.reverse l₂.reverse ↔ Disjoint l₁ l₂ := by
+  rw [disjoint_left]
+  aesop
+
+theorem Perm.disjoint_left {l₁ l₂ l : List α} (p : List.Perm l₁ l₂) :
+    Disjoint l₁ l ↔ Disjoint l₂ l := by
+  simp_rw [List.disjoint_left, p.mem_iff]
```
Comment (eric-wieser) [inline Mathlib/Data/List/Basic.lean:632]: Can you add `disjoint_right` too?

**Comment by eric-wieser** [comment]
I applied the last of @Ruben-VandeVelde's suggestions. Thanks for writing the `perm` lemma!

bors d=@Ruben-VandeVelde

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by Ruben-VandeVelde** [comment]
Apologies for missing the delegation here!
